US04956174
Preparation of the compound No. 25 of Table I [5,6-Bis(trimethylsilyloxy)indole]
0.3 g (0.002 mole) of 5,6-dihydroxyindole is added to 0.81 g (0.004 mole) of N,O-bis(trimethylsilyl)acetamide while stirring at room temperature. When the dissolution is complete, 2 ml of dichloromethane are added and this solution is passed through a column of silica 60, eluting with dichloromethane. The first fraction obtained is concentrated in a rotary evaporator and then dried under vacuum. 0.42 g (yield: 71%) of white crystals of the derivative 25 is thereby obtained.

reactant | 5,6-dihydroxyindole | 0.002 mole, 0.3 g | OC=1C=C2C=CNC2=CC1O | C8H7NO2
reactant | N,O-bis(trimethylsilyl)acetamide | 0.004 mole, 0.81 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5,6-Bis(trimethylsilyloxy)indole | 0.42 g, yield: 71% | C[Si](OC=1C=C2C=CNC2=CC1O[Si](C)(C)C)(C)C | C14H23NO2Si2
